US04925879
4-Methylpiperidine (4.8 g) was added to a solution of 2-[1-(3,4-dichlorophenyl)cyclobutyl]-2-hydroxyacetonitrile (12 g) in toluene (50 ml). The reaction mixture was stirred and heated at 100°-105° C. for two hours, cooled and diluted with water (100 ml) and ether (60 ml). The organic layer was separated washed with water and dried. Evaporation of the solvents gave an oil which solidified on standing to give a solid which was triturated with petroleum ether (b.p. 60°-80° C.) to give 2-[1-(3,4-dichlorophenyl)cyclobutyl]-2-(4-methylpiperidino)acetonitrile (m.p. 76°-78° C.).

reactant | 4-Methylpiperidine | 4.8 g | CC1CCNCC1 | C6H13N
reactant | 2-[1-(3,4-dichlorophenyl)cyclobutyl]-2-hydroxyacetonitrile | 12 g | ClC=1C=C(C=CC1Cl)C1(CCC1)C(C#N)O | C12H11Cl2NO
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 100 ml | O | H2O
solvent | ether | 60 ml | CCOCC | C4H10O
product | 2-[1-(3,4-dichlorophenyl)cyclobutyl]-2-(4-methylpiperidino)acetonitrile | ClC=1C=C(C=CC1Cl)C1(CCC1)C(C#N)N1CCC(CC1)C | C18H22Cl2N2
